US07834049B2
Ethyl Pyruvate N-(5-methyl-2-nitrophenyl)hydrazone
75.0 g (493 mmol) of 5-methyl-2-nitroaniline was added to a mixed solution of 160 ml of water and 170 ml of concentrated hydrochloric acid and the mixture was stirred. To the mixture was added dropwise 80 ml of an aqueous solution containing 36.0 g (517 mmol) of sodium nitrite at −20° C. The reaction solution was added to a solution obtained by dissolving ethyl 2-methylacetoacetate in 100 ml of ethanol and then adding 200 ml of a 12N aqueous potassium hydroxide thereto, at −20° C. over 30 minutes under stirring. After stirring at the same temperature for 30 minutes, 100 ml of concentrated hydrochloric acid was added thereto. The resulting precipitates were collected by filtration, washed with water and dried under reduced pressure overnight. A mixed solution of diethyl ether and hexane was added thereto and the crystals were collected by filtration, to give 130 g of the title compound.

reactant | 5-methyl-2-nitroaniline | 493 mmol, 75.0 g | CC=1C=CC(=C(N)C1)[N+](=O)[O-] | C7H8N2O2
reactant | hydrochloric acid | 170 ml | Cl | ClH
reactant | sodium nitrite | 517 mmol, 36.0 g | N(=O)[O-].[Na+]
reactant | ethyl 2-methylacetoacetate | CC(C(=O)OCC)C(=O)C | C7H12O3
reactant | potassium hydroxide | 12N | [OH-].[K+]
reactant | hydrochloric acid | 100 ml | Cl | ClH
solvent | ethanol | 100 ml | C(C)O | C2H6O
solvent | water | 160 ml | O | H2O
product | Ethyl Pyruvate N-(5-methyl-2-nitrophenyl)hydrazone | 130 g | CC=1C=CC(=C(C1)NN=C(C(=O)OCC)C)[N+](=O)[O-] | C12H15N3O4
